US07842688B2
d) [2-(3-Methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazol-4-yl]methanol
35 ml of diisobutylaluminium hydride (1.5M in toluene) are added dropwise at −70° C. to a solution of 4.95 g of methyl 2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazole-4-carboxylate in 200 ml of tetrahydrofuran. The reaction mixture is then stirred at −10° C. for 1 hour and subsequently partitioned between tert-butyl methyl ether and 2:1 water/1N potassium bisulphate solution—the organic phase is washed with saturated aqueous sodium bicarbonate solution and water, dried over sodium sulphate and concentrated by evaporation. The combined aqueous phases are reextracted with ethyl acetate (3×)—the combined organic phases are washed with saturated aqueous sodium bicarbonate solution and water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residues by means of flash chromatography (SiO2 60F). Rf=0.21 (95:5 ethyl acetate-methanol); Rt=3.91.

reactant | diisobutylaluminium hydride | 1.5M, 35 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 2-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazole-4-carboxylate | 4.95 g | COCCCC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2C(=O)OC | C19H30N2O4Si
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | [2-(3-Methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-benzoimidazol-4-yl]methanol | COCCCC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2CO | C18H30N2O3Si
